US05589506
A mixture of 5-methylfuran-2-carboxaldehyde (5.51 g, 50 mmol, purchased from Wako Junyaku Kogyo), rhodanine (6.66 g, 50 mmol, purchased from Tokyo Kase), and anhydrous sodium acetate (2.3 g, 150 mmol, purchased from Kokusan Kagaku) in 35 ml of acetic acid (purchased from Wako Junyaku Kogyo) was refluxed for 30 minutes. After being cooled, the reaction mixture was poured into 500 ml of water. The precipitate was collected and washed with water, with ethanol, and then with ether to give 10.04 g (yield: 89.1%) of (5-methylfurylidene) rhodanine as an orange-brown color crystalline.

reactant | 5-methylfuran-2-carboxaldehyde | 50 mmol, 5.51 g | CC1=CC=C(O1)C=O | C6H6O2
reactant | rhodanine | 50 mmol, 6.66 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | 150 mmol, 2.3 g | C(C)(=O)[O-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | (5-methylfurylidene) rhodanine | 10.04 g, yield: 89.1% | CC1=CCC(O1)=C1C(NC(S1)=S)=O | C8H7NO2S2
